US07858621B2
To a suspension of 3-fluoro-4-methansulfonylaminobenzylamine hydrochloride (40 mg, 0.16 mmol) in THF (4 mL) was added N-methylmorpholine (26 μL, 0.24 mmol). After stirring for 5 minutes, 3-[6-methoxy-4-(trifluoromethyl)pyridin-3-yl]acrylic acid (32 mg, 0.13 mmol) dissolved in THF (3 mL) and 4-(4,6-dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (DMTMM, 43 mg, 0.16 mmol) were added. The mixture was stirred at room temperature overnight and concentrated under reduced pressure. The residue was diluted with EtOAc and water. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by recrystallization from EtOAc/hexane to give N-(3-fluoro-4-methanesulfonylaminobenzyl)-3-(6-methoxy-4-trifluoromethylpyridin-3-yl)acrylamide (30 mg, 42.7%) as a solid.

reactant | 3-fluoro-4-methansulfonylaminobenzylamine hydrochloride | 0.16 mmol, 40 mg | Cl.FC=1C=C(CN)C=CC1NS(=O)(=O)C
reactant | N-methylmorpholine | 0.24 mmol, 26 μL | CN1CCOCC1 | C5H11NO
reactant | 3-[6-methoxy-4-(trifluoromethyl)pyridin-3-yl]acrylic acid | 0.13 mmol, 32 mg | COC1=CC(=C(C=N1)C=CC(=O)O)C(F)(F)F | C10H8F3NO3
reactant | 4-(4,6-dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 0.16 mmol, 43 mg | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(3-fluoro-4-methanesulfonylaminobenzyl)-3-(6-methoxy-4-trifluoromethylpyridin-3-yl)acrylamide | 30 mg, 42.7% | FC=1C=C(CNC(C=CC=2C=NC(=CC2C(F)(F)F)OC)=O)C=CC1NS(=O)(=O)C | C18H17F4N3O4S
